US09260416B2
Step 6: 5-(6-Chloro-2-methyl-1H-indol-3-ylsulfanyl)-nicotinic acid
5-(6-Chloro-2-methyl-1H-indol-3-ylsulfanyl)-nicotinic acid methyl ester (0.050 g, 0.15 mmol) was dissolved in MeOH:THF (1:1, 4 mL) and LiOH (1 M aq., 1 mL) was added. The reaction was heated to 50° C. for 3.5 hours then cooled. The reaction was acidified with HCL (1 M aq., 1 mL), diluted with EtOAc, dried over MgSO4, then filtered and concentrated to supply the title compound. Mass spectrometric data: [M+H]+=319.

reactant | 5-(6-Chloro-2-methyl-1H-indol-3-ylsulfanyl)-nicotinic acid methyl ester | 0.15 mmol, 0.050 g | COC(C1=CN=CC(=C1)SC1=C(NC2=CC(=CC=C12)Cl)C)=O | C16H13ClN2O2S
reactant | LiOH | 1 M, 1 mL | [Li+].[OH-]
solvent | MeOH THF | 4 mL | CO.C1CCOC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(6-Chloro-2-methyl-1H-indol-3-ylsulfanyl)-nicotinic acid | ClC1=CC=C2C(=C(NC2=C1)C)SC=1C=NC=C(C(=O)O)C1 | C15H11ClN2O2S
